*-- pdngen: spice deck generated for chip 'chiplet2' PDN
*-- die chiplet2:  W/H: 0.002/0.003


.subckt chiplet2
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
*-- p/g port #: 12/12
+nd_1_0_5000_4666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_1000_666 nd_1_0_3000_666 0.016324
rd_1_2_0_0_1 nd_1_0_3000_666 nd_1_0_5000_666 0.016324
rd_1_2_0_0_2 nd_1_0_5000_666 nd_1_0_7000_666 0.016324
rd_1_2_0_0_3 nd_1_0_7000_666 nd_1_0_9000_666 0.016324
rd_1_2_0_1_0 nd_1_0_1000_2000 nd_1_0_3000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_3000_2000 nd_1_0_5000_2000 0.016324
rd_1_2_0_1_2 nd_1_0_5000_2000 nd_1_0_7000_2000 0.016324
rd_1_2_0_1_3 nd_1_0_7000_2000 nd_1_0_9000_2000 0.016324
rd_1_2_0_2_0 nd_1_0_1000_3333 nd_1_0_3000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_3000_3333 nd_1_0_5000_3333 0.016324
rd_1_2_0_2_2 nd_1_0_5000_3333 nd_1_0_7000_3333 0.016324
rd_1_2_0_2_3 nd_1_0_7000_3333 nd_1_0_9000_3333 0.016324
rd_1_2_0_3_0 nd_1_0_1000_4666 nd_1_0_3000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_3000_4666 nd_1_0_5000_4666 0.016324
rd_1_2_0_3_2 nd_1_0_5000_4666 nd_1_0_7000_4666 0.016324
rd_1_2_0_3_3 nd_1_0_7000_4666 nd_1_0_9000_4666 0.016324
rd_1_2_0_4_0 nd_1_0_1000_6000 nd_1_0_3000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_3000_6000 nd_1_0_5000_6000 0.016324
rd_1_2_0_4_2 nd_1_0_5000_6000 nd_1_0_7000_6000 0.016324
rd_1_2_0_4_3 nd_1_0_7000_6000 nd_1_0_9000_6000 0.016324
rd_1_2_0_5_0 nd_1_0_1000_7333 nd_1_0_3000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_3000_7333 nd_1_0_5000_7333 0.016324
rd_1_2_0_5_2 nd_1_0_5000_7333 nd_1_0_7000_7333 0.016324
rd_1_2_0_5_3 nd_1_0_7000_7333 nd_1_0_9000_7333 0.016324
rd_1_2_0_6_0 nd_1_0_1000_8666 nd_1_0_3000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_3000_8666 nd_1_0_5000_8666 0.016324
rd_1_2_0_6_2 nd_1_0_5000_8666 nd_1_0_7000_8666 0.016324
rd_1_2_0_6_3 nd_1_0_7000_8666 nd_1_0_9000_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_1000_666 nd_2_0_1000_2000 0.016324
rd_2_1_0_0_1 nd_2_0_1000_2000 nd_2_0_1000_3333 0.016324
rd_2_1_0_0_2 nd_2_0_1000_3333 nd_2_0_1000_4666 0.016324
rd_2_1_0_0_3 nd_2_0_1000_4666 nd_2_0_1000_6000 0.016324
rd_2_1_0_0_4 nd_2_0_1000_6000 nd_2_0_1000_7333 0.016324
rd_2_1_0_0_5 nd_2_0_1000_7333 nd_2_0_1000_8666 0.016324
rd_2_1_0_1_0 nd_2_0_3000_666 nd_2_0_3000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_3000_2000 nd_2_0_3000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_3000_3333 nd_2_0_3000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_3000_4666 nd_2_0_3000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_3000_6000 nd_2_0_3000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_3000_7333 nd_2_0_3000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_5000_666 nd_2_0_5000_2000 0.016324
rd_2_1_0_2_1 nd_2_0_5000_2000 nd_2_0_5000_3333 0.016324
rd_2_1_0_2_2 nd_2_0_5000_3333 nd_2_0_5000_4666 0.016324
rd_2_1_0_2_3 nd_2_0_5000_4666 nd_2_0_5000_6000 0.016324
rd_2_1_0_2_4 nd_2_0_5000_6000 nd_2_0_5000_7333 0.016324
rd_2_1_0_2_5 nd_2_0_5000_7333 nd_2_0_5000_8666 0.016324
rd_2_1_0_3_0 nd_2_0_7000_666 nd_2_0_7000_2000 0.016324
rd_2_1_0_3_1 nd_2_0_7000_2000 nd_2_0_7000_3333 0.016324
rd_2_1_0_3_2 nd_2_0_7000_3333 nd_2_0_7000_4666 0.016324
rd_2_1_0_3_3 nd_2_0_7000_4666 nd_2_0_7000_6000 0.016324
rd_2_1_0_3_4 nd_2_0_7000_6000 nd_2_0_7000_7333 0.016324
rd_2_1_0_3_5 nd_2_0_7000_7333 nd_2_0_7000_8666 0.016324
rd_2_1_0_4_0 nd_2_0_9000_666 nd_2_0_9000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_9000_2000 nd_2_0_9000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_9000_3333 nd_2_0_9000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_9000_4666 nd_2_0_9000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_9000_6000 nd_2_0_9000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_9000_7333 nd_2_0_9000_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_1000_666 nd_2_0_1000_666 0.005
rvd_1_0_0_1 nd_1_0_3000_666 nd_2_0_3000_666 0.005
rvd_1_0_0_2 nd_1_0_5000_666 nd_2_0_5000_666 0.005
rvd_1_0_0_3 nd_1_0_7000_666 nd_2_0_7000_666 0.005
rvd_1_0_0_4 nd_1_0_9000_666 nd_2_0_9000_666 0.005
rvd_1_0_1_0 nd_1_0_1000_2000 nd_2_0_1000_2000 0.005
rvd_1_0_1_1 nd_1_0_3000_2000 nd_2_0_3000_2000 0.005
rvd_1_0_1_2 nd_1_0_5000_2000 nd_2_0_5000_2000 0.005
rvd_1_0_1_3 nd_1_0_7000_2000 nd_2_0_7000_2000 0.005
rvd_1_0_1_4 nd_1_0_9000_2000 nd_2_0_9000_2000 0.005
rvd_1_0_2_0 nd_1_0_1000_3333 nd_2_0_1000_3333 0.005
rvd_1_0_2_1 nd_1_0_3000_3333 nd_2_0_3000_3333 0.005
rvd_1_0_2_2 nd_1_0_5000_3333 nd_2_0_5000_3333 0.005
rvd_1_0_2_3 nd_1_0_7000_3333 nd_2_0_7000_3333 0.005
rvd_1_0_2_4 nd_1_0_9000_3333 nd_2_0_9000_3333 0.005
rvd_1_0_3_0 nd_1_0_1000_4666 nd_2_0_1000_4666 0.005
rvd_1_0_3_1 nd_1_0_3000_4666 nd_2_0_3000_4666 0.005
rvd_1_0_3_2 nd_1_0_5000_4666 nd_2_0_5000_4666 0.005
rvd_1_0_3_3 nd_1_0_7000_4666 nd_2_0_7000_4666 0.005
rvd_1_0_3_4 nd_1_0_9000_4666 nd_2_0_9000_4666 0.005
rvd_1_0_4_0 nd_1_0_1000_6000 nd_2_0_1000_6000 0.005
rvd_1_0_4_1 nd_1_0_3000_6000 nd_2_0_3000_6000 0.005
rvd_1_0_4_2 nd_1_0_5000_6000 nd_2_0_5000_6000 0.005
rvd_1_0_4_3 nd_1_0_7000_6000 nd_2_0_7000_6000 0.005
rvd_1_0_4_4 nd_1_0_9000_6000 nd_2_0_9000_6000 0.005
rvd_1_0_5_0 nd_1_0_1000_7333 nd_2_0_1000_7333 0.005
rvd_1_0_5_1 nd_1_0_3000_7333 nd_2_0_3000_7333 0.005
rvd_1_0_5_2 nd_1_0_5000_7333 nd_2_0_5000_7333 0.005
rvd_1_0_5_3 nd_1_0_7000_7333 nd_2_0_7000_7333 0.005
rvd_1_0_5_4 nd_1_0_9000_7333 nd_2_0_9000_7333 0.005
rvd_1_0_6_0 nd_1_0_1000_8666 nd_2_0_1000_8666 0.005
rvd_1_0_6_1 nd_1_0_3000_8666 nd_2_0_3000_8666 0.005
rvd_1_0_6_2 nd_1_0_5000_8666 nd_2_0_5000_8666 0.005
rvd_1_0_6_3 nd_1_0_7000_8666 nd_2_0_7000_8666 0.005
rvd_1_0_6_4 nd_1_0_9000_8666 nd_2_0_9000_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_1000_666 0 pwl(0 0.0 4.760e-01ns 0.0  5.260e-01ns 4.4e-02  6.900e-01ns 4.4e-02  7.400e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_1000_666 nd_1_0_1000_666_ci 9.55606
cd_0_0_0_0 nd_1_0_1000_666_ci 0 1.71074e-11
id_0_0_0_1 nd_1_0_3000_666 0 pwl(0 0.0 3.535e-01ns 0.0  4.035e-01ns 1.5e-01  4.630e-01ns 1.5e-01  5.130e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_3000_666 nd_1_0_3000_666_ci 5.58237
cd_0_0_0_1 nd_1_0_3000_666_ci 0 2.46381e-11
id_0_0_0_2 nd_1_0_5000_666 0 pwl(0 0.0 8.125e-01ns 0.0  8.625e-01ns 3.7e-01  8.728e-01ns 3.7e-01  9.228e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_5000_666 nd_1_0_5000_666_ci 4.03128
cd_0_0_0_2 nd_1_0_5000_666_ci 0 4.12855e-11
id_0_0_0_3 nd_1_0_7000_666 0 pwl(0 0.0 8.180e-01ns 0.0  8.680e-01ns 1.3e-01  8.900e-01ns 1.3e-01  9.400e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_7000_666 nd_1_0_7000_666_ci 9.47706
cd_0_0_0_3 nd_1_0_7000_666_ci 0 1.77847e-11
id_0_0_0_4 nd_1_0_9000_666 0 pwl(0 0.0 5.020e-01ns 0.0  5.520e-01ns 3.9e-02  9.180e-01ns 3.9e-02  9.680e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_9000_666 nd_1_0_9000_666_ci 5.57483
cd_0_0_0_4 nd_1_0_9000_666_ci 0 3.58256e-11
id_0_0_0_5 nd_1_0_1000_2000 0 pwl(0 0.0 6.410e-01ns 0.0  6.910e-01ns 3.4e-01  7.082e-01ns 3.4e-01  7.582e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_1000_2000 nd_1_0_1000_2000_ci 3.94997
cd_0_0_0_5 nd_1_0_1000_2000_ci 0 3.25059e-11
id_0_0_0_6 nd_1_0_3000_2000 0 pwl(0 0.0 6.485e-01ns 0.0  6.985e-01ns 2.0e-01  7.182e-01ns 2.0e-01  7.682e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_3000_2000 nd_1_0_3000_2000_ci 6.3516
cd_0_0_0_6 nd_1_0_3000_2000_ci 0 9.18008e-12
id_0_0_0_7 nd_1_0_5000_2000 0 pwl(0 0.0 7.844e-01ns 0.0  8.344e-01ns 2.2e-01  8.604e-01ns 2.2e-01  9.104e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_5000_2000 nd_1_0_5000_2000_ci 5.47676
cd_0_0_0_7 nd_1_0_5000_2000_ci 0 1.09228e-11
id_0_0_0_8 nd_1_0_7000_2000 0 pwl(0 0.0 1.716e-02ns 0.0  6.716e-02ns 9.4e-03  8.463e-01ns 9.4e-03  8.963e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_7000_2000 nd_1_0_7000_2000_ci 11.5378
cd_0_0_0_8 nd_1_0_7000_2000_ci 0 7.80601e-12
id_0_0_0_9 nd_1_0_9000_2000 0 pwl(0 0.0 6.038e-01ns 0.0  6.538e-01ns 1.8e-01  7.688e-01ns 1.8e-01  8.188e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_9000_2000 nd_1_0_9000_2000_ci 3.04501
cd_0_0_0_9 nd_1_0_9000_2000_ci 0 3.96169e-11
id_0_0_0_10 nd_1_0_1000_3333 0 pwl(0 0.0 6.082e-01ns 0.0  6.582e-01ns 2.4e-02  6.684e-01ns 2.4e-02  7.184e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_1000_3333 nd_1_0_1000_3333_ci 62.1362
cd_0_0_0_10 nd_1_0_1000_3333_ci 0 3.54728e-13
id_0_0_0_11 nd_1_0_3000_3333 0 pwl(0 0.0 2.909e-01ns 0.0  3.409e-01ns 1.7e-02  7.620e-01ns 1.7e-02  8.120e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_3000_3333 nd_1_0_3000_3333_ci 11.2117
cd_0_0_0_11 nd_1_0_3000_3333_ci 0 4.6818e-12
id_0_0_0_12 nd_1_0_5000_3333 0 pwl(0 0.0 3.034e-01ns 0.0  3.534e-01ns 5.5e-02  7.670e-01ns 5.5e-02  8.170e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_5000_3333 nd_1_0_5000_3333_ci 3.55226
cd_0_0_0_12 nd_1_0_5000_3333_ci 0 5.15391e-11
id_0_0_0_13 nd_1_0_7000_3333 0 pwl(0 0.0 8.872e-01ns 0.0  9.372e-01ns 3.4e-02  9.417e-01ns 3.4e-02  9.917e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_7000_3333 nd_1_0_7000_3333_ci 47.8948
cd_0_0_0_13 nd_1_0_7000_3333_ci 0 1.7593e-12
id_0_0_0_14 nd_1_0_9000_3333 0 pwl(0 0.0 5.747e-01ns 0.0  6.247e-01ns 2.2e-02  9.492e-01ns 2.2e-02  9.992e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_9000_3333 nd_1_0_9000_3333_ci 10.7714
cd_0_0_0_14 nd_1_0_9000_3333_ci 0 1.05986e-11
id_0_0_0_15 nd_1_0_1000_4666 0 pwl(0 0.0 7.088e-01ns 0.0  7.588e-01ns 1.7e-01  8.825e-01ns 1.7e-01  9.325e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_1000_4666 nd_1_0_1000_4666_ci 2.99415
cd_0_0_0_15 nd_1_0_1000_4666_ci 0 4.81289e-11
id_0_0_0_16 nd_1_0_3000_4666 0 pwl(0 0.0 8.437e-01ns 0.0  8.937e-01ns 1.1e-01  9.027e-01ns 1.1e-01  9.527e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3000_4666 nd_1_0_3000_4666_ci 14.2567
cd_0_0_0_16 nd_1_0_3000_4666_ci 0 1.22896e-11
id_0_0_0_17 nd_1_0_5000_4666 0 pwl(0 0.0 4.022e-01ns 0.0  4.522e-01ns 1.0e-02  6.050e-01ns 1.0e-02  6.550e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_5000_4666 nd_1_0_5000_4666_ci 44.3562
cd_0_0_0_17 nd_1_0_5000_4666_ci 0 3.96483e-12
id_0_0_0_18 nd_1_0_7000_4666 0 pwl(0 0.0 8.786e-02ns 0.0  1.379e-01ns 3.4e-02  9.136e-01ns 3.4e-02  9.636e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_7000_4666 nd_1_0_7000_4666_ci 3.20704
cd_0_0_0_18 nd_1_0_7000_4666_ci 0 2.43615e-12
id_0_0_0_19 nd_1_0_9000_4666 0 pwl(0 0.0 6.806e-01ns 0.0  7.306e-01ns 1.1e-01  8.652e-01ns 1.1e-01  9.152e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_9000_4666 nd_1_0_9000_4666_ci 4.63947
cd_0_0_0_19 nd_1_0_9000_4666_ci 0 8.18391e-12
id_0_0_0_20 nd_1_0_1000_6000 0 pwl(0 0.0 8.159e-01ns 0.0  8.659e-01ns 2.1e-01  8.883e-01ns 2.1e-01  9.383e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_1000_6000 nd_1_0_1000_6000_ci 5.95826
cd_0_0_0_20 nd_1_0_1000_6000_ci 0 1.16385e-11
id_0_0_0_21 nd_1_0_3000_6000 0 pwl(0 0.0 5.259e-02ns 0.0  1.026e-01ns 3.2e-02  8.788e-01ns 3.2e-02  9.288e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_3000_6000 nd_1_0_3000_6000_ci 3.45563
cd_0_0_0_21 nd_1_0_3000_6000_ci 0 5.73162e-11
id_0_0_0_22 nd_1_0_5000_6000 0 pwl(0 0.0 6.344e-01ns 0.0  6.844e-01ns 4.0e-02  7.960e-01ns 4.0e-02  8.460e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_5000_6000 nd_1_0_5000_6000_ci 13.9317
cd_0_0_0_22 nd_1_0_5000_6000_ci 0 2.03259e-12
id_0_0_0_23 nd_1_0_7000_6000 0 pwl(0 0.0 7.675e-01ns 0.0  8.175e-01ns 4.7e-01  8.271e-01ns 4.7e-01  8.771e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_7000_6000 nd_1_0_7000_6000_ci 3.18184
cd_0_0_0_23 nd_1_0_7000_6000_ci 0 1.79589e-11
id_0_0_0_24 nd_1_0_9000_6000 0 pwl(0 0.0 3.299e-01ns 0.0  3.799e-01ns 1.3e-01  5.098e-01ns 1.3e-01  5.598e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_9000_6000 nd_1_0_9000_6000_ci 3.74463
cd_0_0_0_24 nd_1_0_9000_6000_ci 0 5.03271e-11
id_0_0_0_25 nd_1_0_1000_7333 0 pwl(0 0.0 1.345e-02ns 0.0  6.345e-02ns 2.4e-02  8.406e-01ns 2.4e-02  8.906e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_1000_7333 nd_1_0_1000_7333_ci 4.57117
cd_0_0_0_25 nd_1_0_1000_7333_ci 0 4.21666e-12
id_0_0_0_26 nd_1_0_3000_7333 0 pwl(0 0.0 5.970e-01ns 0.0  6.470e-01ns 7.4e-02  8.069e-01ns 7.4e-02  8.569e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_3000_7333 nd_1_0_3000_7333_ci 5.82301
cd_0_0_0_26 nd_1_0_3000_7333_ci 0 2.06685e-11
id_0_0_0_27 nd_1_0_5000_7333 0 pwl(0 0.0 7.349e-01ns 0.0  7.849e-01ns 1.4e-01  8.962e-01ns 1.4e-01  9.462e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_5000_7333 nd_1_0_5000_7333_ci 4.07554
cd_0_0_0_27 nd_1_0_5000_7333_ci 0 3.68989e-11
id_0_0_0_28 nd_1_0_7000_7333 0 pwl(0 0.0 8.716e-01ns 0.0  9.216e-01ns 3.0e-01  9.309e-01ns 3.0e-01  9.809e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_7000_7333 nd_1_0_7000_7333_ci 5.0827
cd_0_0_0_28 nd_1_0_7000_7333_ci 0 1.58615e-11
id_0_0_0_29 nd_1_0_9000_7333 0 pwl(0 0.0 5.520e-01ns 0.0  6.020e-01ns 6.2e-02  7.676e-01ns 6.2e-02  8.176e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_9000_7333 nd_1_0_9000_7333_ci 6.7095
cd_0_0_0_29 nd_1_0_9000_7333_ci 0 1.46607e-12
id_0_0_0_30 nd_1_0_1000_8666 0 pwl(0 0.0 6.941e-01ns 0.0  7.441e-01ns 5.1e-02  8.730e-01ns 5.1e-02  9.230e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_1000_8666 nd_1_0_1000_8666_ci 9.88507
cd_0_0_0_30 nd_1_0_1000_8666_ci 0 4.0874e-12
id_0_0_0_31 nd_1_0_3000_8666 0 pwl(0 0.0 8.257e-01ns 0.0  8.757e-01ns 2.2e-01  8.961e-01ns 2.2e-01  9.461e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_3000_8666 nd_1_0_3000_8666_ci 5.7003
cd_0_0_0_31 nd_1_0_3000_8666_ci 0 3.00533e-11
id_0_0_0_32 nd_1_0_5000_8666 0 pwl(0 0.0 5.087e-01ns 0.0  5.587e-01ns 2.7e-02  9.211e-01ns 2.7e-02  9.711e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_5000_8666 nd_1_0_5000_8666_ci 7.95465
cd_0_0_0_32 nd_1_0_5000_8666_ci 0 7.4136e-14
id_0_0_0_33 nd_1_0_7000_8666 0 pwl(0 0.0 6.505e-01ns 0.0  7.005e-01ns 1.0e-01  7.197e-01ns 1.0e-01  7.697e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7000_8666 nd_1_0_7000_8666_ci 12.6179
cd_0_0_0_33 nd_1_0_7000_8666_ci 0 2.40006e-12
id_0_0_0_34 nd_1_0_9000_8666 0 pwl(0 0.0 3.315e-01ns 0.0  3.815e-01ns 2.9e-01  4.313e-01ns 2.9e-01  4.813e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_9000_8666 nd_1_0_9000_8666_ci 3.12744
cd_0_0_0_34 nd_1_0_9000_8666_ci 0 5.14032e-11

*-- intentional decap
cd_add_cap0 nd_1_0_3000_2000 nd0 'dcap_int_val126'
cd_add_cap1 nd_1_0_7000_2000 nd1 'dcap_int_val127'
cd_add_cap2 nd_1_0_3000_4666 nd2 'dcap_int_val128'
cd_add_cap3 nd_1_0_7000_4666 nd3 'dcap_int_val129'
cd_add_cap4 nd_1_0_3000_7333 nd4 'dcap_int_val130'
cd_add_cap5 nd_1_0_7000_7333 nd5 'dcap_int_val131'
rd_add0 nd0 0 'esr7'
rd_add1 nd1 0 'esr8'
rd_add2 nd2 0 'esr9'
rd_add3 nd3 0 'esr10'
rd_add4 nd4 0 'esr11'
rd_add5 nd5 0 'esr12'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_1000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_1000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_1000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3000_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3000_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3000_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_5000_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_5000_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_5000_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_7000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_7000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_7000_7333  0.001

.ends chiplet2
